US06884821B1
0.2 g of methyl 2-(3-methylphenyl)-5-methyl-1,3-thiazole-4-carboxylate was dissolved in 10 ml methanol, 1 ml of 5N sodium hydroxide was added, and the mixture was heated under reflux for 1 hour. The reaction solution was ice-cooled and neutralized with 2N hydrochloric acid, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 0.2 g of 2-(3-methylphenyl)-5-methyl-1,3-thiazole-4-carboxylic acid.

reactant | methyl 2-(3-methylphenyl)-5-methyl-1,3-thiazole-4-carboxylate | 0.2 g | CC=1C=C(C=CC1)C=1SC(=C(N1)C(=O)OC)C | C13H13NO2S
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-(3-methylphenyl)-5-methyl-1,3-thiazole-4-carboxylic acid | 0.2 g | CC=1C=C(C=CC1)C=1SC(=C(N1)C(=O)O)C | C12H11NO2S
